US05411981
1-(4-nitro-3-trifluoromethyl-phenyl)-3,4,4-trimethyl-2,5-imidazolidinedione
A solution of 3.17 g of 1-(3-trifluoromethyl-4-nitro-phenyl)-4,4-dimethyl-imidazoline-2,5-dione (French Patent No. 2,329,276) and 32 ml of dimethylformamide were added at 23° C. to 26° C. to a 50% suspension of 492 mg of sodium hydride in oil and 3 ml of dimethylformamide and after stirring for 15 minutes, a solution of 0.7 ml of methyl iodide in 2 ml of dimethylformamide was added. The mixture was stirred for 25 minutes at 24° C. to 28° C. and was then poured into 200 g of a 1--1 water-ice mixture. The mixture was extracted with ether and the organic phase was washed with saturated aqueous sodium chloride, dried, filtered and evaporated to dryness under reduced pressure to obtain 3.6 g of the desired product melting at 116° C. An analytical sample was crystallized from isopropyl alcohol to obtain 2.73 g of the product melting at 116° C.

reactant | 1-(3-trifluoromethyl-4-nitro-phenyl)-4,4-dimethyl-imidazoline-2,5-dione | 3.17 g | FC(C=1C=C(C=CC1[N+](=O)[O-])N1C(NC(C1=O)(C)C)=O)(F)F | C12H10F3N3O4
reactant | sodium hydride | 492 mg | [H-].[Na+]
reactant | methyl iodide | 0.7 ml | CI | CH3I
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 32 ml | CN(C=O)C | C3H7NO
product | 1-(4-nitro-3-trifluoromethyl-phenyl)-3,4,4-trimethyl-2,5-imidazolidinedione | 3.6 g | [N+](=O)([O-])C1=C(C=C(C=C1)N1C(N(C(C1=O)(C)C)C)=O)C(F)(F)F | C13H12F3N3O4
